US04146713
4-Hydroxypyrazolo[3,4-d]pyrimidine
A suspension of 3-aminopyrazole-4-carboxamide hemisulphate (113 g.) in formamide (325 ml.) was stirred and heated to 145° C. The reaction was held at 145° C. for 5 hours. The reaction was then cooled to 30° C. and the product collected and washed with formamide (2 × 50 ml.), water (2 × 150 ml.) and acetone (2 × 100 ml.). Wt. of crude product = 79 gms. The crude product was recrystallized by dissolution in a solution made from sodium hydroxide (25 g.) in water (1200 ml.) with treatment at 25° C. with charcoal (8 g.), followed by reprecipitation by the addition of concentrated hydrochloric acid to pH 5. The product was collected and washed with cold water (2 × 300 ml.), acetone (2 × 200 ml.) and dried in vacuo at 60° C. Weight = 70 g. Yield = 80%.

reactant | 3-aminopyrazole-4-carboxamide hemisulphate | 113 g | S(=O)(=O)(O)O.NC1=NNC=C1C(=O)N.NC1=NNC=C1C(=O)N
solvent | formamide | 325 ml | C(=O)N | CH3NO
product | 4-Hydroxypyrazolo[3,4-d]pyrimidine | Yield = 80% | OC1=C2C(=NC=N1)NN=C2 | C5H4N4O
